* FUSED_F Transient Delay — Xyce BSIM-CMG post-layout
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_slvt_tt_cal.pm'
.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS TIMEINT METHOD=trap RELTOL=1e-3 ABSTOL=1e-12
.OPTIONS MEASURE MEASDGT=6

Vvdd VDD 0 0.5
Vgnd VSS 0 0
Vai ai 0 DC 0
Vbi bi 0 PWL(0 0 200p 0 205p 0.5)
Vaj aj 0 DC 0
Vbj bj 0 DC 0

M1000 a_294_85# a_278_5# a_250_85# w_0_65# pmos_slvt l=16n nfin=2
M1001 a_162_225# a_146_145# a_118_225# Gnd nmos_slvt l=16n nfin=2
M1002 a_30_225# a_14_145# oh2 Gnd nmos_slvt l=16n nfin=2
M1003 a_338_85# a_322_5# a_294_85# w_0_65# pmos_slvt l=16n nfin=2
M1004 a_74_10# bi VSS Gnd nmos_slvt l=16n nfin=2
M1005 a_250_10# a_234_5# a_206_10# Gnd nmos_slvt l=16n nfin=2
M1006 a_250_150# a_234_145# a_206_150# w_0_65# pmos_slvt l=16n nfin=2
M1007 a_206_150# a_190_145# a_178_150# w_0_65# pmos_slvt l=16n nfin=2
M1008 a_338_225# a_322_145# a_294_225# Gnd nmos_slvt l=16n nfin=2
M1009 VDD aj a_74_10# w_0_65# pmos_slvt l=16n nfin=2
M1010 a_74_150# a_58_145# VDD w_0_65# pmos_slvt l=16n nfin=2
M1011 a_470_85# a_454_5# a_426_85# w_0_65# pmos_slvt l=16n nfin=2
M1012 a_382_10# a_366_5# a_354_10# Gnd nmos_slvt l=16n nfin=2
M1013 a_294_225# a_278_145# a_250_150# Gnd nmos_slvt l=16n nfin=2
M1014 a_118_225# a_102_145# a_90_150# Gnd nmos_slvt l=16n nfin=2
M1015 a_426_10# a_410_5# a_382_10# Gnd nmos_slvt l=16n nfin=2
M1016 oh1 a_366_145# a_354_150# w_0_65# pmos_slvt l=16n nfin=2
M1017 a_74_10# bi VDD w_0_65# pmos_slvt l=16n nfin=2
M1018 a_250_85# a_234_5# a_206_85# w_0_65# pmos_slvt l=16n nfin=2
M1019 a_162_10# bj VSS Gnd nmos_slvt l=16n nfin=2
M1020 a_162_150# a_146_145# a_118_150# w_0_65# pmos_slvt l=16n nfin=2
M1021 a_514_10# a_498_5# a_470_10# Gnd nmos_slvt l=16n nfin=2
M1022 VSS ai a_0_10# Gnd nmos_slvt l=16n nfin=2
M1023 a_206_10# a_190_5# a_178_10# Gnd nmos_slvt l=16n nfin=2
M1024 VDD a_14_145# oh2 w_0_65# pmos_slvt l=16n nfin=2
M1025 a_250_150# a_234_145# a_206_225# Gnd nmos_slvt l=16n nfin=2
M1026 a_206_225# a_190_145# a_178_150# Gnd nmos_slvt l=16n nfin=2
M1027 a_382_85# a_366_5# a_354_85# w_0_65# pmos_slvt l=16n nfin=2
M1028 a_294_10# a_278_5# a_250_10# Gnd nmos_slvt l=16n nfin=2
M1029 a_338_150# a_322_145# a_294_150# w_0_65# pmos_slvt l=16n nfin=2
M1030 a_426_85# a_410_5# a_382_85# w_0_65# pmos_slvt l=16n nfin=2
M1031 a_338_10# a_322_5# a_294_10# Gnd nmos_slvt l=16n nfin=2
M1032 a_74_150# a_58_145# a_30_225# Gnd nmos_slvt l=16n nfin=2
M1033 a_118_150# a_102_145# a_90_150# w_0_65# pmos_slvt l=16n nfin=2
M1034 a_294_150# a_278_145# a_250_150# w_0_65# pmos_slvt l=16n nfin=2
M1035 a_162_10# bj VDD w_0_65# pmos_slvt l=16n nfin=2
M1036 a_514_85# a_498_5# a_470_85# w_0_65# pmos_slvt l=16n nfin=2
M1037 VDD ai a_0_10# w_0_65# pmos_slvt l=16n nfin=2
M1038 VSS aj a_74_10# Gnd nmos_slvt l=16n nfin=2
M1039 oh1 a_366_145# a_354_225# Gnd nmos_slvt l=16n nfin=2
M1040 a_206_85# a_190_5# a_178_85# w_0_65# pmos_slvt l=16n nfin=2
M1041 a_470_10# a_454_5# a_426_10# Gnd nmos_slvt l=16n nfin=2

CL_oh1 oh1 0 1f
CL_oh2 oh2 0 1f

.TRAN 0.5p 800p

.PRINT TRAN V(bi) V(oh1) V(oh2) I(Vvdd)

.MEASURE TRAN tpd_oh1 TRIG V(bi) VAL=0.25 RISE=1
+  TARG V(oh1) VAL=0.25 RISE=1
.MEASURE TRAN i_avg AVG I(Vvdd) FROM=0 TO=800p
.MEASURE TRAN i_switch AVG I(Vvdd) FROM=200p TO=600p
.END
